US05474994
This compound was prepared in three steps according to the method described for Intermediate XC (first step) and Intermediate LXXX (second and third steps). In the first step, 3-phenylpropionyl chloride was used instead of 2-furancarbonyl chloride and methyl 2-hydroxy-3-propionylbenzoate was used instead of the ethyl homolog, yielding methyl 2-(3-phenylpropionyloxy)-3-propionylbenzoate. This compound was used without purification for the second step. The title compound melted at 107.5°-109° C. after crystallization from ethanol.

reactant | 3-phenylpropionyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | methyl 2-hydroxy-3-propionylbenzoate | OC1=C(C(=O)OC)C=CC=C1C(CC)=O | C11H12O4
product | methyl 2-(3-phenylpropionyloxy)-3-propionylbenzoate | C1(=CC=CC=C1)CCC(=O)OC1=C(C(=O)OC)C=CC=C1C(CC)=O | C20H20O5
